US07956054B2
5-Propyl-1-(2′-sulfamoylbiphenyl-4-ylmethyl)-1H-pyrazole-3-carboxylic Acid Ethyl Ester
1-(4-Bromobenzyl)-5-propyl-1H-pyrazole-3-carboxylic acid ethyl ester (1.2 g, 3.3 mmol) and N-t-butyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzene sulfonamide (1.4 g, 4.0 mmol) were combined with toluene (70.9 mL, 666.0 mmol) and EtOH (18.5 mL, 316.7 mmol). Potassium carbonate (920 mg, 6.7 mmol) was dissolved in water (9.6 mL, 532.8 mmol) and added to the mixture, and stirred. Tetrakis(triphenyl-phosphine)palladium(0) (385 mg, 333 μmol) was added quickly and the mixture heated at 100° C. for 30 minutes in the microwave. EtOAc and water was added and organics were extracted and evaporated. The crude product was dissolved in neat TFA (20 mL, 300 mmol) and stirred at 50° C. for 1.5 hours. The product was dried under vacuum. DCM (20 mL) and saturated NaHCO3 (20 mL) were added, stirred and extracted, dried, and evaporated to yield the title compound.

reactant | 1-(4-Bromobenzyl)-5-propyl-1H-pyrazole-3-carboxylic acid ethyl ester | 3.3 mmol, 1.2 g | C(C)OC(=O)C1=NN(C(=C1)CCC)CC1=CC=C(C=C1)Br | C16H19BrN2O2
reactant | N-t-butyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzene sulfonamide | 4.0 mmol, 1.4 g | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)B1OC(C(O1)(C)C)(C)C | C16H26BNO4S
reactant | toluene | 666.0 mmol, 70.9 mL | C1(=CC=CC=C1)C | C7H8
reactant | EtOH | 316.7 mmol, 18.5 mL | CCO | C2H6O
reactant | Potassium carbonate | 6.7 mmol, 920 mg | C([O-])([O-])=O.[K+].[K+]
reactant | TFA | 300 mmol, 20 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | 532.8 mmol, 9.6 mL | O | H2O
product | 5-Propyl-1-(2′-sulfamoylbiphenyl-4-ylmethyl)-1H-pyrazole-3-carboxylic Acid Ethyl Ester | C(C)OC(=O)C1=NN(C(=C1)CCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)S(N)(=O)=O | C22H25N3O4S
